US08859541B2
G1b tert-butyl-N-methyl-N-[1-[[5-(2-methylimidazo[1,2-a]pyridin-3-yl)-6-[2-(1-methyl-2-oxoquinolin-6-yl)ethynyl]pyridin-2-yl]amino]-1-oxopropan-2-yl]-carbamate
A mixture of tert-butyl-N-[1-[[6-ethynyl-5-(2-methylimidazo[1,2-a]pyridin-3-yl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate F1a (60 mg, 0.14 mmol), 6-bromo-1-methylquinolin-2-one (82 mg, 0.35 mmol), copper(I) iodide (2.6 mg, 0.01 mmol), Dichlorobis(triphenylphosphine)palladium(II) (8.1 mg, 0.01 mmol) and DIPEA (94 μl, 0.55 mmol) is stirred under argon atmosphere in NMP (0.5 ml) for 2 h at 50° C. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 17 mg (21%). HPLC-MS: M+H=591; tR=1.79 min (*Method—4).

reactant | tert-butyl-N-[1-[[6-ethynyl-5-(2-methylimidazo[1,2-a]pyridin-3-yl)pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)C1=C(N=C2N1C=CC=C2)C)C#C)C)=O | C24H27N5O3
reactant | 6-bromo-1-methylquinolin-2-one | 0.35 mmol, 82 mg | BrC=1C=C2C=CC(N(C2=CC1)C)=O | C10H8BrNO
reactant | DIPEA | 0.55 mmol, 94 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
catalyst | copper(I) iodide | 0.01 mmol, 2.6 mg | [Cu]I
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.01 mmol, 8.1 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl-N-methyl-N-[1-[[5-(2-methylimidazo[1,2-a]pyridin-3-yl)-6-[2-(1-methyl-2-oxoquinolin-6-yl)ethynyl]pyridin-2-yl]amino]-1-oxopropan-2-yl]-carbamate | C(C)(C)(C)OC(N(C(C(=O)NC1=NC(=C(C=C1)C1=C(N=C2N1C=CC=C2)C)C#CC=2C=C1C=CC(N(C1=CC2)C)=O)C)C)=O | C34H34N6O4
